data/mechanisms/records/IMS8-EQ8.18a.json
{"mechanism_id": "IMS8-EQ8.18a", "species": [{"species_id": "oxonium_ee_cation", "mapped_smiles": "[CH3:1][OH+:2][CH2:4][CH3:5]", "role": "precursor_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "neutral_alcohol", "mapped_smiles": "[CH3:1][OH:2]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "alkyl_cation", "mapped_smiles": "[CH2+:4][CH3:5]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["oxonium_ee_cation"]}, {"state_id": "state_products", "species_ids": ["neutral_alcohol", "alkyl_cation"]}], "steps": [{"step_id": "step_heterolytic_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [2, 4]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_heterolytic_cleavage", "support_type": "textbook_proposed", "locator": {"page": 150, "equation": "8.18", "section": "8.x Bond lability / heterolytic vs homolytic dissociation at an EE+ site"}, "confidence": 0.9, "curator_note": "adduct corrected to null: the precursor is an even-electron oxonium ion (charge +1, radical_electrons 0), not the [M]+. molecular ion. Equation 8.18, top row labelled 'heterolytic' (bond marked 'weak'): the generic even-electron oxonium ion R'(O+H)-R dissociates heterolytically with charge migration to give the neutral alcohol R'-OH and the alkyl cation R+ (McLafferty inductive cleavage, symbol i). Book draws 1 arc; move <1> is drawn -- a single full (double-barbed) curved arrow taking the O-R bonding pair onto oxygen, which neutralises the oxonium O+ (forming R'-OH) and expels R as a cation. No implicit hook is required: one two-electron arrow fully produces the products. GENERIC scheme: R'=CH3 and R=C2H5 are a curator-chosen instantiation (protonated methyl ethyl ether, C3H9O+); the book prints no specific structures, m/z, or intensities. Text: heterolysis at an EE+ site 'depends on the cation affinity of the leaving group, which on charge migration forms the neutral product' and is the lower-energy ('weak' bond) path."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": null, "activation_method": "electron ionization", "electron_energy_ev": 70.0, "precursor_mz": 61.0648, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_alkyl_cation", "species_id": "alkyl_cation", "step_id": "step_heterolytic_cleavage", "observed_mz": 29.0386, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-25T00:00:00Z", "modified_at": "2026-07-25T00:00:00Z"}}
